US07763634B2
Step A: 2-(2-chloro-6-fluorophenyl)-9-(6-chloropyridin-3-yl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one
9-Bromo-2-(2-chloro-6-fluorophenyl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one (500 mg, 1.130 mmol) was dissolved in ethanol (15 ml) and toluene (15.00 ml). (Dichlorobis)palladiumtriphenylphosphine (79 mg, 0.113 mmol), 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (298 mg, 1.242 mmol) and Na2CO3 (2 M, 1.135 mL) were added and argon was bubbled through the solution for several minutes. The solution was heated at 80° C. for 2 hours. The reaction mixture was cooled to ambient temperature and diluted with ethyl acetate and water. The organic layer was separated, dried over magnesium sulftate, filtered and concentrated. The crude residue was purified via a chiral AD column which afforded the title compound. 1H NMR (500 MHz, CD3OD, δH) 10.68 (s, 1 H), 8.56 (d, 1 H, J=1.8 Hz), 8.30 (dd, 1 H, J=8.4, 3.0 Hz), 8.04 (dd, 1 H) J=9.0, 1.8 Hz), 7.68-7.64 (m, 1 H), 7.63-7.60 (m, 2 H), 7.54 (d, 1 H, J=8.4 Hz), 7.38 (td, 1 H, J =9, 1.2 Hz): [M+1]+ 475.

reactant | 9-Bromo-2-(2-chloro-6-fluorophenyl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one | 1.130 mmol, 500 mg | BrC1=CC=2C(=C3C(=C4C=CNC(C24)=O)NC(=N3)C3=C(C=CC=C3F)Cl)C=C1 | C20H10BrClFN3O
reactant | 2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.242 mmol, 298 mg | ClC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
reactant | Na2CO3 | 2 M, 1.135 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | toluene | 15.00 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chloro-6-fluorophenyl)-9-(6-chloropyridin-3-yl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one | ClC1=C(C(=CC=C1)F)C1=NC=2C(=C3C=CNC(C3=C3C2C=CC(=C3)C=3C=NC(=CC3)Cl)=O)N1 | C25H13Cl2FN4O
